US07449467B2
1-[4-(Trifluoromethyl)pyridin-2-yl]piperazine
A solution of 2-chloro-4-(trifluoromethyl)pyridine (2.0 g, 11 mmol), piperazine (3 g, 30 mmol) and triethylamine (3.1 mL, 22 mmol) in DMF (10 mL) was heated at 100° C. overnight and concentrated in vacuo. The residue was purified by column chromatography on silica gel (EtOAc to EtOAc/MeOH/Et3N=9/1/0.5) to give 1.09 g (43%) of pure product. MS calculated for C10H12F3N3: (M+H) 232; found 232.1.

reactant | 2-chloro-4-(trifluoromethyl)pyridine | 11 mmol, 2.0 g | ClC1=NC=CC(=C1)C(F)(F)F | C6H3ClF3N
reactant | piperazine | 30 mmol, 3 g | N1CCNCC1 | C4H10N2
reactant | triethylamine | 22 mmol, 3.1 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-[4-(Trifluoromethyl)pyridin-2-yl]piperazine | 1.09 g, 43% | FC(C1=CC(=NC=C1)N1CCNCC1)(F)F | C10H12F3N3
